US04244870
To a solution of dimethylformamide (47.5 kg) containing pyridine (4.7 kg), there were added 4-hydroxy-1,5-naphthyridine-3-carboxylic acid (2.8 kg) and N-hydroxy-succinimide (2.2 kg). To the mixture, there was dropwise added thionyl chloride (2.1 kg) while stirring at room temperature, and stirring was continued for 5 hours at the same temperature. The precipitated crystals were collected by filtration, washed with acetone and dried under reduced pressure to give 4.3 kg of N-(4-hydroxy-1,5-naphthyridine-3-carbonyloxy)succinimide. Purity, 97%

reactant | dimethylformamide | 47.5 kg | CN(C=O)C | C3H7NO
reactant | 4-hydroxy-1,5-naphthyridine-3-carboxylic acid | 2.8 kg | OC1=C(C=NC2=CC=CN=C12)C(=O)O | C9H6N2O3
reactant | N-hydroxy-succinimide | 2.2 kg | ON1C(CCC1=O)=O | C4H5NO3
reactant | thionyl chloride | 2.1 kg | S(=O)(Cl)Cl | Cl2OS
solvent | pyridine | 4.7 kg | N1=CC=CC=C1 | C5H5N
product | N-(4-hydroxy-1,5-naphthyridine-3-carbonyloxy)succinimide | 4.3 kg | OC1=C(C=NC2=CC=CN=C12)C(=O)ON1C(CCC1=O)=O | C13H9N3O5
